US07652041B2
Step 2. Preparation of N-(4-chlorophenyl)-3-{4-[(2-cyanopyridin-4-yl)oxy]-phenyl}propanamide (A-21)
A solution of 3-{4-[(2-cyanopyridin-4-yl)oxy]phenyl}propanoic acid (400 mg, 1.49 mmol), HATU (681 mg, 1.79 mmol), DIPEA (0.5 mL, 2.98 mmol), and 4-chloroaniline (209 mg, 1.63 mmol) in DMF (5 mL) was stirred overnight at rt. The reaction mixture was diluted with EtOAc and washed with 1N HCl, 1N NaOH and brine, dried over Na2SO4 and concentrated. The resulting solid was triturated with DCM and filtered to give A-21 (187 mg, 33%). 1H NMR (300 MHz, d6-DMSO): δ 10.02 (s, 1H), 8.56 (dd, J1=0.50 Hz, J2=5.8 Hz, 1H), 7.57-7.63 (m, 3H), 7.31-7.40 (m, 4H), 7.10-7.17 (m, 3H), 2.95 (t, J=7.5 Hz, 2H), and 2.65 (t, J=7.8 Hz, 2H).

reactant | 3-{4-[(2-cyanopyridin-4-yl)oxy]phenyl}propanoic acid | 1.49 mmol, 400 mg | C(#N)C1=NC=CC(=C1)OC1=CC=C(C=C1)CCC(=O)O | C15H12N2O3
reactant | HATU | 1.79 mmol, 681 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.98 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloroaniline | 1.63 mmol, 209 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-chlorophenyl)-3-{4-[(2-cyanopyridin-4-yl)oxy]-phenyl}propanamide | ClC1=CC=C(C=C1)NC(CCC1=CC=C(C=C1)OC1=CC(=NC=C1)C#N)=O | C21H16ClN3O2
